US07589206B2
N-[2-Chloro-4-(trifluoromethyl)phenyl]-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine hydrochloride
A mixture of 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine (100 mg), 2-chloro-4-trifluoromethylaniline (80 mg), cesium carbonate (168 mg), tris(dibenzylideneacetone)dipalladium (0) (3.4 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (2.3 mg) in 1,4-dioxan (2 ml) was heated to 100° C. under nitrogen for 2 h. Added tris(dibenzylideneacetone)dipalladium (0) (10 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (7 mg) and continued heating at 100° C. under nitrogen over night. The reaction mixture was diluted with dichloromethane and washed with water then dried (MgSO4), filtered and evaporated. Purification and salt formation was as described in Example 101 to afford the title compound as a white solid (64 mg).

reactant | 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 100 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C13H14ClN3O2
reactant | 2-chloro-4-trifluoromethylaniline | 80 mg | ClC1=C(N)C=CC(=C1)C(F)(F)F | C7H5ClF3N
reactant | cesium carbonate | 168 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 3.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 2.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 7 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | N-[2-Chloro-4-(trifluoromethyl)phenyl]-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine hydrochloride | 64 mg | Cl.ClC1=C(C=CC(=C1)C(F)(F)F)NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | InChI=1S/C20H18ClF3N4O2.ClH/c1-27-5-4-13-17(27)14(19(29)28-6-8-30-9-7-28)11-25-18(13)26-16-3-2-12(10-15(16)21)20(22,23)24;/h2-5,10-11H,6-9H2,1H3,(H,25,26);1H
